US05061726
A mixture of 2-t-butylpropane-1,3-diol (11.0 g.) (E.L. Eliel et al J. Amer Chem Soc. 1968, 90, 3444) was stirred in dry toluene (200 ml), at 20° C. Sodium hydride (2.4 g., 80% dispersion in oil), previously washed with hexane, was added carefully to the stirred mixture. The mixture was stirred at 120° C. for 30 minutes and cooled. Benzyl bromide (9.5 ml) was added dropwise and the mixture heated at 130°, with stirring for 6 hours. The mixture was cooled, water was added and the mixture extracted with diethyl ether. The ethereal extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by chromatography on silica, eluting with 1:4 diethyl ether: hexane. 2-Benzyloxymethyl-3,3-dimethyl-butan-1-ol (8.0 g) was obtained as a colourless

reactant | 2-t-butylpropane-1,3-diol | 11.0 g | C(C)(C)(C)C(CO)CO | C7H16O2
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Benzyloxymethyl-3,3-dimethyl-butan-1-ol | 8.0 g | C(C1=CC=CC=C1)OCC(CO)C(C)(C)C | C14H22O2
